Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
endometriosis and fibroid uterus
 
Major Surgical or Invasive Procedure:
robotic-assisted laparoscopic bilateral ovarian cystectomy, 
right salpingo-oophorectomy, and myomectomy for endometriosis 
and fibroid uterus

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 06:54PM   GLUCOSE-116* UREA N-9 CREAT-0.6 SODIUM-136 
POTASSIUM-4.0 CHLORIDE-101 TOTAL CO2-28 ANION GAP-11
___ 06:54PM   CALCIUM-8.5 PHOSPHATE-3.2 MAGNESIUM-1.8
___ 06:54PM   WBC-19.9* RBC-3.05* HGB-7.8* HCT-23.8* 
MCV-78* MCH-25.6* MCHC-32.8 RDW-18.9* RDWSD-53.2*
___ 06:54PM   NEUTS-79.2* LYMPHS-13.2* MONOS-6.9 EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-15.74* AbsLymp-2.63 AbsMono-1.37* 
AbsEos-0.00* AbsBaso-0.01
___ 06:54PM   PLT COUNT-317
___ 08:20AM   WBC-18.8* RBC-3.11* HGB-7.5* HCT-23.6* 
MCV-76* MCH-24.1* MCHC-31.8* RDW-19.3* RDWSD-52.6*
___:20AM   NEUTS-86.1* LYMPHS-7.8* MONOS-5.3 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-16.20*# AbsLymp-1.47 AbsMono-0.99* 
AbsEos-0.00* AbsBaso-0.03
___ 08:20AM   PLT COUNT-362
___ 12:05AM   WBC-24.4*# RBC-3.19* HGB-7.7* HCT-24.4* 
MCV-77* MCH-24.1* MCHC-31.6* RDW-19.4* RDWSD-53.1*
___ 12:05AM   PLT COUNT-361
___ 07:30PM   TYPE-ART PO2-111* PCO2-41 PH-7.33* TOTAL 
CO2-23 BASE XS--4
___ 07:30PM   GLUCOSE-208* LACTATE-3.3* NA+-135 K+-4.1 
CL--107 TCO2-21
___ 07:30PM   HGB-8.1* calcHCT-24 O2 SAT-97
___ 07:30PM   freeCa-1.05*
___ 05:45PM   TYPE-ART PO2-223* PCO2-60* PH-7.21* TOTAL 
CO2-25 BASE XS--5
___ 05:45PM   GLUCOSE-203* LACTATE-2.5* NA+-136 K+-3.9 
CL--105 TCO2-24
___ 05:45PM   HGB-6.9* calcHCT-21 O2 SAT-97
___ 05:45PM   freeCa-1.10*
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing  robotic-assisted laparoscopic bilateral 
ovarian cystectomy, right salpingectomy, and myomectomy. Please 
see the operative report for full details.

Intra-operatively, she had desaturations to 69%, with heart rate 
in the 130s. Post-operatively, she was found to have a Hct of 
21. She was given 1 unit of packed red blood cells and underwent 
a CT angiogram to rule out a pulmonary embolism. Immediately 
post-op, her pain was controlled with IV dilaudid/toradol.

On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. She had symptoms 
of lightheadedness and dizziness upon standing, and her Hct was 
found to be 23.6. She was given an additional 4 units of packed 
red blood cells during post-operative days 1 and 2, and her 
hematocrit at discharge was 28.8. She also experienced 
persistent tachycardia to the 100s-120s during her 
hospitalization, which was thought to be due to her anemia. She 
was monitored on telemetry during her hospitalization. 

She also experienced pleuritic chest pain and shortness of 
breath during her hospitalization. EKG showed normal sinus 
rhythm, CXR showed prominent opacity in left lower lobe, 
atelectasis versus pneumonitis and a tiny right pleural 
effusion. Her symptoms were thought to be due to pulmonary edema 
and pulmonary atelectasis. She was given lasix with symptomatic 
improvement. 

By post-operative day 3, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
naproxen prn, norethindrone
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not take more than 4000mg in 24 hours.  
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
take with food.  
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Do not drink alcohol or drive while taking this medication. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometriosis
Endometrioma
Fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___